US07807686B2
N-Cyclopropyl methyl-2-(6-hydroxy-4-oxo-2-phenyl-4H-quinazolin-3-yl)acetamide (INTERMEDIATE IV.6) (0.35 g, 1.0 mmol) was dissolved in dry pyridine (7 mL). The solution was cooled to 0° C. and trifluoromethanesulfonic anhydride (0.5 ml, 3 mmol) was added dropwise. After 1 h the mixture was concentrated, dissolved in dichloromethane and washed with saturated NaHCO3 (aq.) and brine. The organic layer was dried (MgSO4) and concentrated to yield trifluoromethanesulfonic acid 3-[(cyclopropylmethylcarbamoyl)methyl]-4-oxo-2-phenyl-3,4-dihydroquinazolin-6-yl ester (0.33 g, 0.68 mmol, 68%) as a yellow solid.

reactant | N-Cyclopropyl methyl-2-(6-hydroxy-4-oxo-2-phenyl-4H-quinazolin-3-yl)acetamide | 1.0 mmol, 0.35 g | C1(CC1)NC(C(N1C(=NC2=CC=C(C=C2C1=O)O)C1=CC=CC=C1)C)=O | C20H19N3O3
reactant | trifluoromethanesulfonic anhydride | 3 mmol, 0.5 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | pyridine | 7 mL | N1=CC=CC=C1 | C5H5N
product | trifluoromethanesulfonic acid 3-[(cyclopropylmethylcarbamoyl)methyl]-4-oxo-2-phenyl-3,4-dihydroquinazolin-6-yl ester | 0.68 mmol, 0.33 g, 68% | C1(CC1)CNC(=O)CN1C(=NC2=CC=C(C=C2C1=O)OS(=O)(=O)C(F)(F)F)C1=CC=CC=C1 | C21H18F3N3O5S
